US06300352B1
a) 4-Bromo-2,5-difluorobenzenesulfonamide
Ammonium hydroxide (5 ml) was added to a solution of 2,5-difluoro-4-bromophenylsulfonyl chloride (4.3 g) in tetrahydrofuran (20 ml) at room temperature (CARE:exotherm) and stirred for 10 min. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated and the residue triturated with 20% diethyl ether in isohexane to give the sub-title compound as a solid (4.3 g).

reactant | Ammonium hydroxide | 5 ml | [OH-].[NH4+]
reactant | 2,5-difluoro-4-bromophenylsulfonyl chloride | 4.3 g | FC1=C(C=C(C(=C1)Br)F)S(=O)(=O)Cl | C6H2BrClF2O2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Bromo-2,5-difluorobenzenesulfonamide | 4.3 g | BrC1=CC(=C(C=C1F)S(=O)(=O)N)F | C6H4BrF2NO2S
